US04447361
[2-[(3-Amino-2-pyridinyl)[3-(dimethylamino)propyl]amino]phenyl]phenylmethanone
A solution of N,N-dimethyl-6-phenyl-11H-pyrido[2,3-b][1,4]benzodiazepine-11-propanamine in isopropyl alcohol is treated with 25% hydrochloric acid at 0° C. to give a solution of the title compound.

reactant | N,N-dimethyl-6-phenyl-11H-pyrido[2,3-b][1,4]benzodiazepine-11-propanamine | CN(CCCN1C2=C(N=C(C3=C1C=CC=C3)C3=CC=CC=C3)C=CC=N2)C | C23H24N4
reactant | hydrochloric acid | Cl | ClH
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
product | [2-[(3-Amino-2-pyridinyl)[3-(dimethylamino)propyl]amino]phenyl]phenylmethanone | NC=1C(=NC=CC1)N(C1=C(C=CC=C1)C(=O)C1=CC=CC=C1)CCCN(C)C | C23H26N4O
